US08048878B2
Synthesis of ethyl 1-[2-hydroxy-1-(3,4,5-trifluorophenyl)ethyl]-6-oxopiperidine-2-carboxylate
A solution of (S*) 1-[(R*)-1-(3,4,5-trifluorophenyl)-2-hydroxyethyl]-6-oxopiperidine-2-carbonitrile (2.0 g) in saturated hydrochloric acid-ethanol (30 mL) was stirred at room temperature for nine days. A saturated sodium bicarbonate solution and chloroform were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system->ethyl acetate-methanol system) to obtain 1.48 g of the title compound. The property values of the compound are as follows.

reactant | (S*) 1-[(R*)-1-(3,4,5-trifluorophenyl)-2-hydroxyethyl]-6-oxopiperidine-2-carbonitrile | 2.0 g | FC=1C=C(C=C(C1F)F)[C@H](CO)N1[C@@H](CCCC1=O)C#N | C14H13F3N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid ethanol | 30 mL | Cl.C(C)O
product | ethyl 1-[2-hydroxy-1-(3,4,5-trifluorophenyl)ethyl]-6-oxopiperidine-2-carboxylate | 1.48 g | OCC(C1=CC(=C(C(=C1)F)F)F)N1C(CCCC1=O)C(=O)OCC | C16H18F3NO4
